US07687490B2
N,N-Diisopropylaminocarbonyloxymethyl (5R,6S)-6-((1R)-1-hydroxyethyl)-2-[[(Z)-2-(4-hydroxymethylthiazol-5-yl)ethen-1-yl]thio]-1-carbapen-2-em-3-carboxylate
Chloromethyl N,N-diisopropylcarbamate (54 mg) and 75 mg of n-tetrabutyl ammonium bromide were added to 2 ml of a solution of 100 mg of sodium (5R,6S)-6-((1R)-1-hydroxyethyl)-2-[[(Z)-2-(4-hydroxymethylthiazol-5-yl)ethen-1-yl]thio]-1-carbapen-2-em-3-carboxylate in N,N-dimethylacetamide, and the mixture was stirred at 30° C. for 3.5 hr. Ethyl acetate (10 ml) and 10 ml of semi-saturated brine were added to the reaction solution, followed by separation. The organic layer was washed three times with 10 ml of semi-saturated brine, was dried over anhydrous magnesium sulfate, and was filtered. Ethyl acetate was removed by distillation under the reduced pressure, and the residue was purified by column chromatography on silica gel (ethyl acetate:methanol=15:1) to give 108 mg of the title compound.

reactant | Chloromethyl N,N-diisopropylcarbamate | 54 mg | C(C)(C)N(C(OCCl)=O)C(C)C | C8H16ClNO2
reactant | sodium (5R,6S)-6-((1R)-1-hydroxyethyl)-2-[[(Z)-2-(4-hydroxymethylthiazol-5-yl)ethen-1-yl]thio]-1-carbapen-2-em-3-carboxylate | 100 mg | O[C@H](C)[C@@H]1[C@@H]2N(C(=C(C2)S\C=C/C2=C(N=CS2)CO)C(=O)[O-])C1=O.[Na+]
reactant | Ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylacetamide | CN(C(C)=O)C | C4H9NO
solvent | brine | 10 ml | [Cl-].[Na+].O
product | N,N-Diisopropylaminocarbonyloxymethyl (5R,6S)-6-((1R)-1-hydroxyethyl)-2-[[(Z)-2-(4-hydroxymethylthiazol-5-yl)ethen-1-yl]thio]-1-carbapen-2-em-3-carboxylate | 108 mg | O[C@H](C)[C@@H]1[C@@H]2N(C(=C(C2)S\C=C/C2=C(N=CS2)CO)C(=O)OCOC(=O)N(C(C)C)C(C)C)C1=O | C23H31N3O7S2
